datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20](=[O:10])OCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C([H])[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)C)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C)C)C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]CCCCCC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O:10]([K])C(CC)C(C)/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)[H])CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)OC.CCCCCC[O:10][Li]>>CCCCCC[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC 10=21;21,20=20"
"C(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)([O-:21])CCCCCC>>C1(C([O:21][C:20](O1)([O-:10])OCCCCCC)CCCCCC)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C(C)C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)C(C)C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])C 10=20;20,21=21"
"CN([C:20]([O-:10])(O[H])[O:21]C1=CC=CC=C1)CC>>CN([C:20](=[O:10])O[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:21][C:20]1(C)C([H])C([H])C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])C([H])C([H])[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
